US07078428B2
Ethyl (5-isopropyloxy-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate is prepared as described in Example 2, starting with 0.149 g of 60% sodium hydride in 20 cm3 of 1,2-dimethoxyethane, 1.23 cm3 of triethyl phosphonoacetate and 1.08 g of 5-isopropyloxy-3-hydroxy-2-isobutyl-2,3-dihydro-isoindol-1-one. The mixture is refluxed for 5 hours and then cooled to a temperature in the region of 20° C. The reaction mixture is treated with 100 cm3 of water and the mixture is then extracted with 3 times 100 cm3 of diethyl ether. The organic extracts are combined, washed with 100 cm3 of saturated brine, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography under argon pressure (80 kPa) on a cartridge of silica gel (particle size 32-63 μm), eluting with a mixture of cyclohexane/ethyl acetate (90/10 by volume) and then with a mixture of cyclohexane/ethyl acetate (80/20 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.42 g of ethyl (5-isopropyloxy-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1yl)acetate is thus obtained in the form of a colorless oil. (Rf=0.57, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (50/50 by volume)).

reactant | sodium hydride | 0.149 g | [H-].[Na+]
reactant | 5-isopropyloxy-3-hydroxy-2-isobutyl-2,3-dihydro-isoindol-1-one | 1.08 g | C(C)(C)OC=1C=C2C(N(C(C2=CC1)=O)CC(C)C)O | C15H21NO3
reactant | water | 100 cm3 | O | H2O
solvent | 1,2-dimethoxyethane | 20 cm3 | COCCOC | C4H10O2
product | ethyl (5-isopropyloxy-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1yl)acetate | 0.42 g | C(C)(C)OC=1C=C2C(N(C(C2=CC1)CC(=O)OCC)CC(C)C)=O | C19H27NO4
